US09216968B2
To a solution of 2-(methoxymethyl)-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylic acid (153 mg) in DMF (5 mL), were added HBTU (178 mg) and triethylamine (65 μL). To the mixture was added 3-chloro-2-methylaniline (56 μL) under stirring at room temperature, and the mixture was stirred overnight. The reaction mixture was poured into saturated aqueous sodium bicarbonate, and extracted with ethyl acetate. The ethyl acetate layer was washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified on silica gel column chromatography to obtain N-(3-chloro-2-methylphenyl)-2-(methoxymethyl)-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxamide (165 mg) as colorless powder.

reactant | 2-(methoxymethyl)-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylic acid | 153 mg | COCC1=NC2=C(N1)C=C(C=C2C(=O)O)NC(=O)C2=C(C=CC=C2)C(F)(F)F | C18H14F3N3O4
reactant | HBTU | 178 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 3-chloro-2-methylaniline | 56 μL | ClC=1C(=C(N)C=CC1)C | C7H8ClN
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 65 μL | C(C)N(CC)CC | C6H15N
product | N-(3-chloro-2-methylphenyl)-2-(methoxymethyl)-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxamide | 165 mg | ClC=1C(=C(C=CC1)NC(=O)C1=CC(=CC=2NC(=NC21)COC)NC(=O)C2=C(C=CC=C2)C(F)(F)F)C | C25H20ClF3N4O3
